US06596718B1
A suspension of 220 mg (0.75 mmol) 2-(2-methoxy-5-morpholin-4-yl-phenylamino)-2-thioxo-acetamide in 2.88 ml 1N aqueous sodiumhydroxde was added to a solution of 813 mg (2.47 mmol) potassium ferricyanide in 2 ml water. The mixture was stirred at 50° C. for 30 minutes and then at room temperature overnight. The precipitate was separated by filtration, dissolved in dichloromethane and purified by column chromatography on silicagel with ethyl acetate/hexane 1/1. 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid amide, 32 mg (15%), was obtained as yellow crystals with mp.: 228-230° C., MS m/e (%): 294 (M+H+, 100).

reactant | 2-(2-methoxy-5-morpholin-4-yl-phenylamino)-2-thioxo-acetamide | 0.75 mmol, 220 mg | COC1=C(C=C(C=C1)N1CCOCC1)NC(C(=O)N)=S | C13H17N3O3S
solvent | water | 2 ml | O | H2O
catalyst | potassium ferricyanide | 2.47 mmol, 813 mg | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid amide | COC1=CC=C(C2=C1N=C(S2)C(=O)N)N2CCOCC2 | C13H15N3O3S
